US05389633
Production of 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)[1,2,4]triazolo[1,5-b]pyridazine
In 30 ml of dimethylformamide was suspended 1.38 g of 60% sodium hydride in oil, followed by addition of 2.51 g of 3-hydroxy-2,2-dimethyl-1-propanesulfonamide and the mixture was stirred under reduced pressure at room temperature for 1 hour. To this was added 2.56 g of 6-chloro-7,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine and the mixture was stirred at room temperature for 3 hours. Following addition of 100 ml of iced water, the reaction mixture was adjusted to pH 6 with 5N-hydrochloric acid and extracted with 3 portions of ethyl acetate-tetrahydrofuran (2:1). The extract was washed with 20 ml of saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was subjected to silica gel column chromatography, elution being carried out with dichloromethane-methanol (30:1). The fractions containing the desired product were pooled and concentrated to provide 0.63 g of the title compound. m.p. 175°-177° C.

reactant | sodium hydride | 1.38 g | [H-].[Na+]
reactant | 3-hydroxy-2,2-dimethyl-1-propanesulfonamide | 2.51 g | OCC(CS(=O)(=O)N)(C)C | C5H13NO3S
reactant | 6-chloro-7,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine | 2.56 g | ClC=1C(=C(C=2N(N1)N=CN2)C)C | C7H7ClN4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)[1,2,4]triazolo[1,5-b]pyridazine | 0.63 g | CC1=C(C=2N(N=C1OCC(CS(N)(=O)=O)(C)C)N=CN2)C | C12H19N5O3S
